US04812164
using 1-(4-bromo-2-fluoro-5-hydroxyphenyl)-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone and allyl bromide with sodium hydride in dimethylformamide there is obtained 1-(5-allyloxy-4-bromo-2-fluorophenyl)-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone. m.p. 107°-110° C.;

reactant | 1-(4-bromo-2-fluoro-5-hydroxyphenyl)-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone | BrC1=CC(=C(C=C1O)N1C(=NC(=CC1=O)C(F)(F)F)OC)F | C12H7BrF4N2O3
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(5-allyloxy-4-bromo-2-fluorophenyl)-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone | C(C=C)OC=1C(=CC(=C(C1)N1C(=NC(=CC1=O)C(F)(F)F)OC)F)Br | C15H11BrF4N2O3
